US07943607B2
7,8-Difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one
Sodium hydride (52 mg, 1.29 mmol) was added portionwise to a solution of 2,4,5-trifluoro-N-(2-hydroxyethyl)-N-methylbenzamide (300 mg, 1.29 mmol) in DMF (13 mL) and reaction was allowed to stir at RT for 2 hours. Water (30 mL) was added and the white solution was extracted with ethyl acetate (3×30 mL) and dried (MgSO4), filtered and evaporated to give the desired compound as a colourless oil (275 mg). The compound was used without further purification.

reactant | Sodium hydride | 1.29 mmol, 52 mg | [H-].[Na+]
reactant | 2,4,5-trifluoro-N-(2-hydroxyethyl)-N-methylbenzamide | 1.29 mmol, 300 mg | FC1=C(C(=O)N(C)CCO)C=C(C(=C1)F)F | C10H10F3NO2
reactant | Water | 30 mL | O | H2O
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 7,8-Difluoro-4-methyl-3,4-dihydro-1,4-benzoxazepin-5(2H)-one | 275 mg | FC=1C(=CC2=C(C(N(CCO2)C)=O)C1)F | C10H9F2NO2
